US05686610
5-[(3-(Piperadin-1-yl)propyl)sulfonamido]indole-2-carboxylic acid
Ethyl 5-[(3-(piperadin-1-yl)propyl)sulfonamido]indole-2- carboxylate (PREPARATION 83, 1.63 g) is dissolved in 10 ml of dioxane and 5 ml of water. Then 0.59 g of solid potassium hydroxide pellets are added and the reaction is stirred at 20°-25° for 24 hr. Then 8.91 ml of 1N hydrochloric acid is added after diluting the reaction with 100 ml of water. The mixture is extracted with n-butanol (3×50 ml) and the organic layer is separated and evaporated under reduced pressure to provide the title compound, NMR (300 MHz, d6 -DMSO) 7.37, 7.27, 7.00, 6.90, 2.91, 2.25, 1.75, 1.31, (peak at 4.3 ppm obscured by DMSO).

reactant | Ethyl 5-[(3-(piperadin-1-yl)propyl)sulfonamido]indole-2- carboxylate | 1.63 g | N1(CCCCC1)CCCS(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C19H27N3O4S
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 1N, 8.91 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-[(3-(Piperadin-1-yl)propyl)sulfonamido]indole-2-carboxylic acid | N1(CCCCC1)CCCS(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C17H23N3O4S
